US08067445B2
Step 1: (3-Benzyloxy-5-trifluoromethyl-phenyl)-acetic acid ethyl ester
Prepared according to the procedure described in Example 41, Step 2, using the following starting materials: (3-benzyloxy-5-trifluoromethyl-phenyl)-acetic acid and ethanol.

reactant | (3-benzyloxy-5-trifluoromethyl-phenyl)-acetic acid | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)C(F)(F)F)CC(=O)O | C16H13F3O3
reactant | ethanol | C(C)O | C2H6O
product | (3-Benzyloxy-5-trifluoromethyl-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=CC(=C1)C(F)(F)F)OCC1=CC=CC=C1)=O | C18H17F3O3
